US08283354B2
2-(4-Chloro-7-methylquinazolin-2-yl)-3-fluorophenol (300 mg, 1.04 mmol) in CH2Cl2 (5 mL) was cooled using an ice water batch. To this stirring solution was added (R)-2-hydroxy-4-methyl-1-(piperazin-1-yl)pentan-1-one (312 mg, 1.56 mmol), followed by triethylamine (210 mg, 291 μL, 2.08 mmol). After letting the reaction warm to room temperature, it was stirred overnight. The mixture was partitioned between water and CH2Cl2 and separated, and the aqueous layer was extracted with CH2Cl2. The combined organic layers were dried over Na2SO4, filtered, and concentrated to a viscous yellow oil. Purification via silica gel chromatography using 0-30% EtOAc in CH2Cl2/hexanes (2:1) gave (R)-1-(4-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4-methylpentan-1-one as a bright yellow foam/solid. (413 mg, 88%). LC/MS: m/z 453.1 (M+H)+ at 2.44 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.01 (d, J=8.5 Hz, 1H), 7.68 (s, 1H), 7.42 (d, J=8.5 Hz, 1H), 7.37-7.32 (m, 1H), 6.80 (d, J=8.3 Hz, 1H), 6.76-6.71 (m, 1H), 4.91 (d, J=7.2 Hz, 1H), 4.40-4.35 (m, 1H), 4.02-3.65 (m, 8H), 2.52 (s, 3H), 1.82-1.73 (m, 1H), 1.47-1.34 (m, 2H), 0.91 (dd, J=6.5, 4.1 Hz, 6H).

reactant | 2-(4-Chloro-7-methylquinazolin-2-yl)-3-fluorophenol | 1.04 mmol, 300 mg | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1F)O | C15H10ClFN2O
reactant | (R)-2-hydroxy-4-methyl-1-(piperazin-1-yl)pentan-1-one | 1.56 mmol, 312 mg | O[C@@H](C(=O)N1CCNCC1)CC(C)C | C10H20N2O2
reactant | triethylamine | 2.08 mmol, 291 μL, 210 mg | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(4-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4-methylpentan-1-one | FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1CCN(CC1)C([C@@H](CC(C)C)O)=O)C | C25H29FN4O3
